### PR TITLE
[Merged by Bors] - feat: integrability of log ‖meromorphic‖

### PR DESCRIPTION
**Pull request by kebekus**
For real-meromorphic functions `f`, establish interval integrability of `log ‖f ·‖`. In particular, show that `log ∘ sin` is interval integrable. For complex-meromorphic functions `f`, establish circle integrability of `log ‖f ·‖`.

At the suggestion of @sgouezel, split the file [Mathlib/Analysis/SpecialFunctions/Integrals.lean](https://github.com/leanprover-community/mathlib4/pull/24845/files#diff-866dd3a7c4603a1a9d9361ee9e58ea2a97ab83d2037e34d5a8ac23862f421c65). The file establishes values of special interval integrals. As a prerequisite, it establishes interval integrability of numerous functions. Interval integrability of `log ‖f ·‖`, which is established in the current PR, naturally fits in there. Adding the material to [Mathlib/Analysis/SpecialFunctions/Integrals.lean](https://github.com/leanprover-community/mathlib4/pull/24845/files#diff-866dd3a7c4603a1a9d9361ee9e58ea2a97ab83d2037e34d5a8ac23862f421c65) did however not seem advisable:

- The line of argumentation is different from what is used already, leading to massive new imports and cross-dependencies.
- The current file mixes two lines of results of independent interest that have only a clear one-way dependency (integral computation uses integrability)
- The file was very long already.

As a clean solution, move the material on integrability to a new directory, `Mathlib/Analysis/SpecialFunctions/Integrability`, which contains a file with the original material and another one with the new material. That way, the results on integrability are all in one place and cross-imports are avoided.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane. Integrability of `log ∘ sin` might be useful in future discussions of polylogarithms.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Complex/Analytic.lean [hunk 1]
```diff
@@ -152,4 +153,20 @@ lemma AnalyticOn.log (fs : AnalyticOn ℝ f s) (m : ∀ x ∈ s, 0 < f x) :
...
+  rw [this]
+  apply AnalyticAt.re_ofReal
+  apply Complex.analyticOnNhd_univ_iff_differentiable.mpr Complex.differentiable_sin
+  trivial
+
+/-- The function `Real.sin` is real analytic. -/
+theorem analyticOnNhd_sin : AnalyticOnNhd ℝ Real.sin Set.univ := by
+  intro x
+  simp [analyticAt_sin]
+
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Complex/Analytic.lean:171]:
```suggestion

/-- The function `Real.sin` is real analytic. -/
@[fun_prop]
lemma analyticAt_sin : AnalyticAt ℝ Real.sin x :=
  Real.contDiff_sin.contDiffAt.analyticAt

/-- The function `Real.sin` is real analytic. -/
theorem analyticOnNhd_sin : AnalyticOnNhd ℝ Real.sin s :=
  fun _ _ ↦ analyticAt_sin
```
We already have this fact (in the form that sin is C^n for any n, including n = omega), so better use the already existing fact. Also, I've stated it for any set instead of just `univ`, because often in applications you need a smaller set.

Could you also register the `AnalyticWithinAt` and `AnalyticOn` versions? Also for `cos`, and `cosh`, and `sinh`, and `exp`, real and complex versions? (I know it's a lot to ask, but that's the way to construct comprehensive API and make sure nobody will need to come back to it later on).
Also, this would better fit in the file `Analysis.SpecialFunctions.Trigonometric.Deriv`.

File: Mathlib/Analysis/SpecialFunctions/Integrals.lean [hunk 2]
```diff
@@ -3,7 +3,10 @@ Copyright (c) 2021 Benjamin Davidson. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Benjamin Davidson
 -/
+import Mathlib.Analysis.Meromorphic.FactorizedRational
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrals.lean:6]: When you need to add a lot of imports to a file, it's a sign that in fact you should instead create a new file.

File: Mathlib/Analysis/SpecialFunctions/Integrals.lean [hunk 3]
```diff
@@ -258,6 +261,68 @@ theorem intervalIntegrable_log' : IntervalIntegrable log volume a b := by
     apply Set.not_mem_uIcc_of_lt zero_lt_one at hx
     simpa
 
+/--
+If `f` is meromorphic over `ℝ`, then functions of the form `log ‖f ·‖` are
+interval integrable.
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrals.lean:266]:
```suggestion
If `f` is meromorphic on a compact interval, then functions of the form `log ‖f ·‖` are
interval integrable on this interval.
```

File: Mathlib/Analysis/SpecialFunctions/Integrals.lean [hunk 4]
```diff
@@ -266,6 +331,17 @@ theorem intervalIntegrable_sin : IntervalIntegrable sin μ a b :=
 theorem intervalIntegrable_cos : IntervalIntegrable cos μ a b :=
   continuous_cos.intervalIntegrable a b
 
+/--
+The function `log ∘ sin` is invervalintegrable over every interval.
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrals.lean:335]:
```suggestion
The function `log ∘ sin` is interval integrable over every interval.
```

File: Mathlib/MeasureTheory/Integral/CircleIntegral.lean [hunk 5]
```diff
@@ -183,6 +183,22 @@ nonrec theorem add (hf : CircleIntegrable f c R) (hg : CircleIntegrable g c R) :
     CircleIntegrable (f + g) c R :=
   hf.add hg
 
+/-- Sums of circle integrable functions are circle integrable. -/
+theorem sum {ι : Type*} (s : Finset ι) {f : ι → ℂ → E} (h : ∀ i ∈ s, CircleIntegrable (f i) c R) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/CircleIntegral.lean:187]:
```suggestion
protected theorem sum {ι : Type*} (s : Finset ι) {f : ι → ℂ → E} (h : ∀ i ∈ s, CircleIntegrable (f i) c R) :
```

File: Mathlib/MeasureTheory/Integral/CircleIntegral.lean [hunk 6]
```diff
@@ -183,6 +183,22 @@ nonrec theorem add (hf : CircleIntegrable f c R) (hg : CircleIntegrable g c R) :
...
+    CircleIntegrable (∑ i ∈ s, f i) c R := by
+  rw [CircleIntegrable, (by aesop : (fun θ ↦ (∑ i ∈ s, f i) (circleMap c R θ))
+    = ∑ i ∈ s, fun θ ↦ f i (circleMap c R θ))] at *
+  exact IntervalIntegrable.sum s h
+
+/-- Finsums of circle integrable functions are circle integrable. -/
+theorem finsum {ι : Type*} {f : ι → ℂ → E} (h : ∀ i, CircleIntegrable (f i) c R) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/CircleIntegral.lean:194]:
```suggestion
protected theorem finsum {ι : Type*} {f : ι → ℂ → E} (h : ∀ i, CircleIntegrable (f i) c R) :
```

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/Basic.lean [hunk 7]
```diff
@@ -265,6 +265,16 @@ theorem sum (s : Finset ι) {f : ι → ℝ → E} (h : ∀ i ∈ s, IntervalInt
     IntervalIntegrable (∑ i ∈ s, f i) μ a b :=
   ⟨integrable_finset_sum' s fun i hi => (h i hi).1, integrable_finset_sum' s fun i hi => (h i hi).2⟩
 
+/-- Finsums of interval integrable functions are interval integrable. -/
+@[simp]
+theorem finsum {f : ι → ℝ → E} (h : ∀ i, IntervalIntegrable (f i) μ a b) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/Basic.lean:270]:
```suggestion
protected theorem finsum {f : ι → ℝ → E} (h : ∀ i, IntervalIntegrable (f i) μ a b) :
```

File: Mathlib/Analysis/SpecialFunctions/Complex/Analytic.lean (hunk 1 above)
Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Complex/Analytic.lean:171]: Will do, but probably not before Monday.

File: Mathlib/Analysis/Complex/Meromorphic/CircleIntegrability.lean [hunk 8]
```diff
@@ -0,0 +1,76 @@
...
+-/
+
+variable
+  {E : Type*} [NormedAddCommGroup E] [NormedSpace ℂ E]
+  {c : ℂ} {R : ℝ} {f : ℂ → E}
+
+open Filter MeromorphicOn Metric Real
+
+/--
+If `f` is meromorphic on the complex plane, then `log ‖f ·‖` is circle integrable over every circle.
```
[the remark this answers is not in the document]
Comment (kebekus) [reply Mathlib/Analysis/Complex/Meromorphic/CircleIntegrability.lean]: Oops. That has been corrected.

File: Mathlib/Analysis/SpecialFunctions/Integrals.lean (hunk 2 above)
Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Integrals.lean:6]: Implemented.

File: Mathlib/Analysis/SpecialFunctions/Complex/Analytic.lean (hunk 1 above)
Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Complex/Analytic.lean]: Implemented.

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Deriv.lean [hunk 9]
```diff
@@ -174,6 +174,23 @@ theorem deriv_ccos (hc : DifferentiableAt ℂ f x) :
     deriv (fun x => Complex.cos (f x)) x = -Complex.sin (f x) * deriv f x :=
   hc.hasDerivAt.ccos.deriv
 
+/-- The function `Complex.cos` is complex analytic. -/
+@[fun_prop]
+lemma analyticAt_ccos : AnalyticAt ℂ Complex.cos x :=
```
[the remark this answers is not in the document]
Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Trigonometric/Deriv.lean]: Done.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Deriv.lean [hunk 10]
```diff
@@ -53,6 +53,23 @@ theorem differentiable_sin : Differentiable ℂ sin := fun x => (hasDerivAt_sin
 theorem differentiableAt_sin {x : ℂ} : DifferentiableAt ℂ sin x :=
   differentiable_sin x
 
+/-- The function `Complex.sin` is complex analytic. -/
+@[fun_prop]
+lemma analyticAt_sin {x : ℂ} : AnalyticAt ℂ Complex.sin x :=
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Deriv.lean]: Since you're in the `Complex` namespace, no need to spell out `Complex.sin` in the theorem statement. Same thing below, and for the other functions, and for the real versions.

Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Trigonometric/Deriv.lean]: Implemented.

File: Mathlib/Analysis/SpecialFunctions/Integrability/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,283 @@
...
+Copyright (c) 2021 Benjamin Davidson. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Benjamin Davidson
+-/
+import Mathlib.Analysis.SpecialFunctions.Log.NegMulLog
+import Mathlib.Analysis.SpecialFunctions.NonIntegrable
+import Mathlib.Analysis.SpecialFunctions.Pow.Deriv
+
+/-!
+# Integration of specific interval integrals
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrability/Basic.lean]: This docstring is the docstring of the other, old, file. It does not correspond to the contents of the current file. Could you replace it with something more appropriate?

Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Integrability/Basic.lean]: Done.

**Comment by kebekus** [comment]
@sgouezel I implemented your suggestion and removed the "awaiting author" label.

At present, the "Post PR summary comment" fails with an error message
```
./scripts/update_PR_comment.sh: line 36: GITHUB_TOKEN: unbound variable
```
I'm assuming this is an issue in the build system unrelated to my PR, so I will continue as normal.

**Comment by grunweg** [comment]
The failing job is unrelated to your PR: can you merge master, please? Then it should disappear and your PR will be visible on the review queue again. (Sorry for the inconvenience; this is caused by a recent changes to mathlib's continuous integration. An in-progress PR will make such situations impossible in the future.)

**Comment by kebekus** [comment]
@grunweg Thanks! Merging 'master' did the trick, as you suggested.

File: Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean [hunk 12]
```diff
@@ -0,0 +1,172 @@
...
+import Mathlib.Analysis.NormedSpace.Connected
+import Mathlib.Analysis.SpecialFunctions.Integrability.Basic
+import Mathlib.Analysis.SpecialFunctions.Log.PosLog
+import Mathlib.Data.Complex.FiniteDimensional
+import Mathlib.MeasureTheory.Integral.CircleIntegral
+
+/-!
+# Integrability for Logarithms of Meromorphic Functions
+
+We establish integrability for functions of `log ‖meromorphic‖`. In the real setting, these
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean]:
```suggestion
We establish integrability for functions of the form `log ‖meromorphic‖`. In the real setting, these
```
I guess that's what you wanted to write?

File: Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean [hunk 13]
```diff
@@ -0,0 +1,172 @@
...
+      simp only [Pi.zero_apply, log_eq_zero, norm_eq_zero]
+      left
+      by_contra hCon
+      simp_all [← h₁x.meromorphicOrderAt_eq_zero_iff, t₀ ⟨x, h₂x⟩]
+    rw [intervalIntegrable_congr_codiscreteWithin this]
+    apply _root_.intervalIntegrable_const_iff.2
+    tauto
+
+/--
+If `f` is real-meromorphic on a compact interval, then `log ‖f⁺ ·‖` is interval integrable on this
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean]: Is the + misplaced?

File: Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean [hunk 14]
```diff
@@ -0,0 +1,172 @@
...
+
+variable
+  {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E]
+  {f : ℝ → E} {a b : ℝ}
+
+/--
+If `f` is real-meromorphic on a compact interval, then `log ‖f ·‖` is interval integrable on this
+interval.
+-/
+@[simp]
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean]: I don't think this theorem and the next ones should be simp. Rather, they could be fun_prop (but I don't know if fun_prop is registered for `MeromorphicOn`). For the current PR, I would just remove the simp attributes.

File: Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean [hunk 15]
```diff
@@ -0,0 +1,172 @@
...
+/--
+Special case of `MeromorphicOn.intervalIntegrable_log`: The function `log ∘ sin` is interval
+integrable over every interval.
+-/
+@[simp]
+theorem intervalIntegrable_log_sin : IntervalIntegrable (log ∘ sin) volume a b := by
+  apply MeromorphicOn.intervalIntegrable_log
+  apply AnalyticOnNhd.meromorphicOn
+  apply analyticOnNhd_sin.mono
+  tauto
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean]:
```suggestion
theorem intervalIntegrable_log_sin : IntervalIntegrable (log ∘ sin) volume a b := 
  analyticOnNhd_sin.meromorphicOn.intervalIntegrable_log
```
You can streamline the proof a lot.

File: Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean [hunk 16]
```diff
@@ -0,0 +1,172 @@
...
+    CircleIntegrable (log ‖f ·‖) c R := by
+  by_cases t₀ : ∀ u : (sphere c |R|), meromorphicOrderAt f u ≠ ⊤
+  · obtain ⟨g, h₁g, h₂g, h₃g⟩ := hf.extract_zeros_poles t₀
+      ((divisor f (sphere c |R|)).finiteSupport (isCompact_sphere c |R|))
+    have h₄g := MeromorphicOn.extract_zeros_poles_log h₂g h₃g
+    apply CircleIntegrable.congr_codiscreteWithin h₄g.symm
+    apply CircleIntegrable.add
+    · apply CircleIntegrable.finsum
+      intro i
+      unfold CircleIntegrable
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean]:
```suggestion
```
`unfold` is not needed if you use `apply` afterwards, as `apply` sees through definitions.

**Review by sgouezel — COMMENTED** [review]
Looks good to me, thanks!

File: Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean (hunk 13 above)
Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean]: Fixed.

File: Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean (hunk 14 above)
Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean]: Removed the `simp`s, as suggested.

**Comment by Ruben-VandeVelde** [comment]
There's a bunch of code movement in this PR; could you add a note to the PR summary to explain why? (or move these changes to a separate PR)

**Comment by kebekus** [comment]
> There's a bunch of code movement in this PR; could you add a note to the PR summary to explain why? (or move these changes to a separate PR)

@Ruben-VandeVelde Thanks for looking at this PR. I updated the description as follows.

At the suggestion of @sgouezel, split the file [Mathlib/Analysis/SpecialFunctions/Integrals.lean](https://github.com/leanprover-community/mathlib4/pull/24845/files#diff-866dd3a7c4603a1a9d9361ee9e58ea2a97ab83d2037e34d5a8ac23862f421c65). The file establishes values of special interval integrals. As a prerequisite, it establishes interval integrability of numerous functions. Interval integrability of `log ‖f ·‖`, which is established in the current PR, naturally fits in there. Adding the material to [Mathlib/Analysis/SpecialFunctions/Integrals.lean](https://github.com/leanprover-community/mathlib4/pull/24845/files#diff-866dd3a7c4603a1a9d9361ee9e58ea2a97ab83d2037e34d5a8ac23862f421c65) did however not seem advisable:

- The line of argumentation is different from what is used already, leading to massive new imports and cross-dependencies.
- The current file mixes two lines of results of independent interest that have only a clear one-way dependency (integral computation uses integrability)
- The file was very long already.

As a clean solution, move the material on integrability to a new directory, `Mathlib/Analysis/SpecialFunctions/Integrability`, which contains a file with the original material and another one with the new material. That way, the results on integrability are all in one place and cross-imports are avoided.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean [hunk 17]
```diff
@@ -0,0 +1,161 @@
...
+theorem _root_.MeromorphicOn.intervalIntegrable_log {f : ℝ → ℝ} (hf : MeromorphicOn f [[a, b]]) :
+    IntervalIntegrable (log ∘ f) volume a b := by
+  rw [(by aesop : log ∘ f = (log ‖f ·‖))]
+  exact intervalIntegrable_log_norm_meromorphicOn hf
+
+/--
+Special case of `MeromorphicOn.intervalIntegrable_log`: The function `log ∘ sin` is interval
+integrable over every interval.
+-/
+theorem intervalIntegrable_log_sin : IntervalIntegrable (log ∘ sin) volume a b :=
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean:94]: Could you also record the same result for `cos`? It would feel weird to have one and not the other.

File: Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean [hunk 18]
```diff
@@ -0,0 +1,161 @@
...
+functions are circle integrable over every circle in the complex plane.
+-/
+
+open Filter Interval MeasureTheory MeromorphicOn Metric Real
+
+/-!
+## Interval Integrability for Logarithms of Real Meromorphic Functions
+-/
+
+namespace intervalIntegral
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean]:
```suggestion
section IntervalIntegrable
```
No need for a namespace, as all the names already mention that you're talking about interval integrability.

File: Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean [hunk 19]
```diff
@@ -0,0 +1,161 @@
...
+theorem intervalIntegrable_log_sin : IntervalIntegrable (log ∘ sin) volume a b :=
+  analyticOnNhd_sin.meromorphicOn.intervalIntegrable_log
+
+end intervalIntegral
+
+/-!
+## Circle Integrability for Logarithms of Complex Meromorphic Functions
+-/
+
+namespace circleIntegral
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean]:
```suggestion
section CircleIntegrable
```

File: Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean [hunk 20]
```diff
@@ -0,0 +1,161 @@
...
+
+variable
+  {E : Type*} [NormedAddCommGroup E] [NormedSpace ℂ E]
+  {c : ℂ} {R : ℝ} {f : ℂ → E}
+
+/--
+If `f` is complex meromorphic on a circle in the complex plane, then `log ‖f ·‖` is circle
+integrable over that circle.
+-/
+theorem circleIntegrable_log_norm_meromorphicOn (hf : MeromorphicOn f (sphere c |R|)) :
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean:120]: I would guess that in 95% of applications, R will be nonnegative, and the assumption will be of the form `MeromorphicOn f (sphere c R)`. Could you also give the statement in this form, called `circleIntegrable_log_norm_meromorphicOn_of_nonneg`?

File: Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean [hunk 21]
```diff
@@ -0,0 +1,161 @@
...
+      left
+      by_contra hCon
+      simp_all [← h₁x.meromorphicOrderAt_eq_zero_iff, t₀ ⟨x, h₂x⟩]
+    apply CircleIntegrable.congr_codiscreteWithin this.symm (circleIntegrable_const 0 c R)
+
+/--
+If `f` is complex meromorphic on a circle in the complex plane, then `log⁺ ‖f ·‖` is circle
+integrable over that circle.
+-/
+theorem circleIntegrable_posLog_norm_meromorphicOn (hf : MeromorphicOn f (sphere c |R|)) :
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean:169]: ditto

File: Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean (hunk 17 above)
Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean:94]: Done

File: Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean (hunk 20 above)
Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean:120]: Done.

File: Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean (hunk 21 above)
Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean:169]: Done.

**Comment by j-loreaux** [comment]
From what I understand from the PR description (not having taken a super thorough look through the code), this PR does several things including moving some existing code. @sgouezel if you want to merge as is, I'm okay with it (but won't do it myself), but do you think it would be best to split that code movement out into a separate PR for the sake of the diff and git history?

**Comment by kebekus** [comment]
@sgouezel @j-loreaux How shall we continue? If you prefer, I can easily split this PR into several pieces. Just let me know if this is what you want me to do.

File: Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean [hunk 22]
```diff
@@ -0,0 +1,186 @@
...
+      left
+      by_contra hCon
+      simp_all [← h₁x.meromorphicOrderAt_eq_zero_iff, t₀ ⟨x, h₂x⟩]
+    apply CircleIntegrable.congr_codiscreteWithin this.symm (circleIntegrable_const 0 c R)
+
+/--
+Variant of `circleIntegrable_log_norm_meromorphicOn` for non-negative radii.
+-/
+theorem circleIntegrable_log_norm_meromorphicOn_of_nonneg (hf : MeromorphicOn f (sphere c R))
+    (hR : 0 ≤ R):
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean]:
```suggestion
    (hR : 0 ≤ R) :
```

File: Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean [hunk 23]
```diff
@@ -0,0 +1,186 @@
...
+  apply CircleIntegrable.add
+  · apply (circleIntegrable_log_norm_meromorphicOn hf).const_mul
+  · apply IntervalIntegrable.const_mul
+    apply (circleIntegrable_log_norm_meromorphicOn hf).abs
+
+/--
+Variant of `circleIntegrable_posLog_norm_meromorphicOn` for non-negative radii.
+-/
+theorem circleIntegrable_posLog_norm_meromorphicOn_of_nonneg (hf : MeromorphicOn f (sphere c R))
+    (hR : 0 ≤ R):
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Integrability/LogMeromorphic.lean]:
```suggestion
    (hR : 0 ≤ R) :
```

**Review by sgouezel — COMMENTED** [review]
Since no file was deleted, I don't think git will follow the history better with two commits than one. So, let's merge this!
bors d+

**Comment by kebekus** [comment]
Thanks to everyone involved.

@sgouezel Thank you so much for your extraordinary engagement and patience.

bors r+
